US06323223B1
Pyridinium dichromate (4.0 g, 10.63 mmol) was added to a solution of 1(RS)-[1-(3,4-dichlorobenzyl)piperidin-4-ylmethyl]-2-methylpropanol (0.5 g, 1.5 mmol) in dimethylformamide (25 ml) at 0° C. The resulting solution was stirred at 0° C. until the starting material was consumed and then quenched with water, basified with 2N sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with water, brine, and dried over sodium sulfate. The residue was purified on silica gel with 25% acetone, 25% dichloromethane in hexanes to give 1-[1-(3,4-dichlorobenzyl)piperidin-4-yl]-3-methyl-2-butanone (0.32 g) as an oil.

reactant | Pyridinium dichromate | 10.63 mmol, 4.0 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 1(RS)-[1-(3,4-dichlorobenzyl)piperidin-4-ylmethyl]-2-methylpropanol | 1.5 mmol, 0.5 g | ClC=1C=C(CN2CCC(CC2)CC(C(C)C)O)C=CC1Cl | C17H25Cl2NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-[1-(3,4-dichlorobenzyl)piperidin-4-yl]-3-methyl-2-butanone | 0.32 g | ClC=1C=C(CN2CCC(CC2)CC(C(C)C)=O)C=CC1Cl | C17H23Cl2NO
